US07217723B2
7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid [2-(4-fluorophenyl)-ethyl]-methyl-amide
To a solution of [2-(4-fluorophenyl)-ethyl]-methyl-amine (the compound of Preparation Example 14) (520 mg) and triethylamine (474 μL) in tetrahydrofuran was added a solution of 7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonyl chloride (the compound of Preparation Example 7) (800 mg) in tetrahydrofuran. The solution was stirred on an ice bath for 30 minutes, and at room temperature for 30 minutes. The residue resulting from the removal of the solvent by evaporation was purified by NH silica gel column chromatography (hexane/ethyl acetate), and the title compound (834 mg) was obtained as a colorless candy-like substance.

reactant | [2-(4-fluorophenyl)-ethyl]-methyl-amine | FC1=CC=C(C=C1)CCNC | C9H12FN
reactant | triethylamine | 474 μL | C(C)N(CC)CC | C6H15N
reactant | 7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonyl chloride | O=C1CCCC2=C1SC=C2S(=O)(=O)Cl | C8H7ClO3S2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid [2-(4-fluorophenyl)-ethyl]-methyl-amide | 834 mg | FC1=CC=C(C=C1)CCN(S(=O)(=O)C=1C2=C(SC1)C(CCC2)=O)C | C17H18FNO3S2
